US07037938B2
4′-[3-[(tert-Butoxycarbonyl)[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-1,1′-biphenyl-4-carboxylic acid (100 mg), ammonium formate (50 mg) and palladium on carbon powder (30 mg) in methanol (5 ml) and water (1.0 ml) was refluxed for 30 minutes. The reaction mixture was filtrated and poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. A mixture of the residue was chromatographed (chloroform-methanol) over silica gel to give 4′-[3-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-propyl]-1,1′-biphenyl-4-carboxylic acid (90 mg) as a colorless foam.

reactant | 4′-[3-[(tert-Butoxycarbonyl)[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]propyl]-1,1′-biphenyl-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C[C@H](O)C=1C=NC(=CC1)Cl | C28H31ClN2O5
reactant | ammonium formate | 50 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 1.0 ml | O | H2O
product | 4′-[3-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]-propyl]-1,1′-biphenyl-4-carboxylic acid | 90 mg | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C[C@@H](C=1C=NC=CC1)O | C28H32N2O5
